US04256742
A mixture of 50.00 g of the product mixture from the stannous chloride reduction of 10-nitro-5H-dibenzo[a,d]cyclohepten-5-one and 62.61 g (0.901 mol) of hydroxylamine hydrochloride in 500 ml of pyridine was refluxed for 6 hr, poured into 3000 ml of ice water and 100 ml of conc. HCl, and extracted with CH2Cl2. The extracts were washed with brine, dried, treated with activated charcoal, filtered, and concentrated in vacuo to give a solid suspended in pyridine. The solid was removed by filtration and the pyridine treated as above to give a white solid. The solids were combined giving 44.09 g of 5,10-dioximino-10,11-dihydro-5H-dibenzo[a,d]cycloheptene as a white solid which had incorporated pyridine. The pyridine could not be removed by heating, high vacuum, or recrystallization: mp 220°-221°; NMR (DMSO-d6 /TMS) δ 11.62 (s, 1H, =NOH), 11.57 (s, 1H, =NOH), 7.50-7.00 (m, 8H, arom), and 3.97 (br s, 2H, benzylic); IR (CHCl3) 2.79, 3.34, 6.33, 6.99, 8.20, 8.34, 9.39, 9.74, 10.09, 10.79, 12.65 and 14.34μ.

reactant | 10-nitro-5H-dibenzo[a,d]cyclohepten-5-one | [N+](=O)([O-])C1=CC2=C(C(C3=C1C=CC=C3)=O)C=CC=C2 | C15H9NO3
reactant | hydroxylamine hydrochloride | 0.901 mol, 62.61 g | Cl.NO
reactant | HCl | 100 ml | Cl | ClH
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 5,10-dioximino-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 44.09 g | N(O)=C1C2=C(C(CC3=C1C=CC=C3)=NO)C=CC=C2 | C15H12N2O2
